US07273952B2
5-dimethylaminomethyl-4-(3-methoxyphenyl)-cyclohex-3-enol Hydrochloride
20.0 g 2-dimethylaminomethyl-1-(3-methoxyphenyl)cyclohexane-1,4-diol (equatorial alcohol) were dissolved in 300 ml concentrated formic acid, 6.75 ml acetyl chloride were added and the mixture heated for two hours to reflux. After cooling the mixture was concentrated, the residue taken up with 2 M sodium hydroxide solution and extracted with ethyl acetate. The combined extracts were dried by sodium sulphate, filtered, concentrated, the crude product obtained (16.7 g) dissolved in 2-butanone and by addition of 1.15 ml water and 8.1 ml chlorotrimethylsilane 5-dimethylaminomethyl-4-(3-methoxyphenyl)-cyclohex-3-enol hydrochloride (17.7 g) precipitated.

reactant | chlorotrimethylsilane 5-dimethylaminomethyl-4-(3-methoxyphenyl)-cyclohex-3-enol hydrochloride | 8.1 ml, 17.7 g | Cl.CN(C)CC1C(=CCC(C1)O)C1=CC(=CC=C1)OC.Cl[Si](C)(C)C
solvent | 2-butanone | CC(CC)=O | C4H8O
solvent | water | 1.15 ml | O | H2O
product | 5-dimethylaminomethyl-4-(3-methoxyphenyl)-cyclohex-3-enol Hydrochloride | Cl.CN(C)CC1C(=CCC(C1)O)C1=CC(=CC=C1)OC | InChI=1S/C16H23NO2.ClH/c1-17(2)11-13-9-14(18)7-8-16(13)12-5-4-6-15(10-12)19-3;/h4-6,8,10,13-14,18H,7,9,11H2,1-3H3;1H
